US09255090B2
(±)-8-[5-(1-Carboxy-ethyl)-2-methoxy-phenyl]-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C27H26NO5F, MW=463.18)
To a mixture under N2 of 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (82 mg, 0.20 mmol, 1.00 eq.), (±)-2-(3-bromo-4-methoxy-phenyl)-propionic acid ethyl ester (63 mg, 0.20 mmol, 1.00 eq.) and sodium carbonate (85 mg, 0.80 mmol, 4.00 eq.) in toluene/MeOH/water 20:4:1 (4 mL), tetrakis(triphenylphosphine) palladium (0) (12 mg, 0.01 mmol, 0.05 eq.) was added and the mixture was stirred at 100° C. for 18 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was partitioned between AcOEt (10 mL) and water (10 mL). The layers were separated. The org. phase was washed with sat. aq. NaCl soln. (1×5 mL), dried over MgSO4 and filtered through Celite. The filtrate was concentrated in vacuo. To a solution of the previous residue in DMF (0.9 mL), 1M aq. NaOH soln. (1.3 mL) was added. The mixture was stirred at 50° C. for 18 hours. The reaction mixture was concentrated in vacuo. The residue was redissolved in THF (2 mL) and water (2 mL). Lithiumhydroxide monohydrate (23 mg, 0.54 mmol, 2.71 eq.) was added and the mixture was stirred at 50° C. for 18 hours. Formic acid was added (0.2 mL). The solution was diluted with DCM. The layers were separated and the aq. phase was extracted with DCM (2×). The comb. org. layers were dried over MgSO4, filtered and concentrated in vacuo.

reactant | 5-fluoro-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.20 mmol, 82 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)B1OC(C(O1)(C)C)(C)C | C23H27BFNO4
reactant | (±)-2-(3-bromo-4-methoxy-phenyl)-propionic acid ethyl ester | 0.20 mmol, 63 mg, 1.00 eq. | C(C)OC(C(C)C1=CC(=C(C=C1)OC)Br)=O | C12H15BrO3
reactant | sodium carbonate | 0.80 mmol, 85 mg, 4.00 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | Lithiumhydroxide monohydrate | 0.54 mmol, 23 mg, 2.71 eq. | O.[OH-].[Li+]
solvent | toluene MeOH water | 4 mL | C1(=CC=CC=C1)C.CO.O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.01 mmol, 12 mg, 0.05 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Formic acid | C(=O)O | CH2O2
product | (±)-8-[5-(1-Carboxy-ethyl)-2-methoxy-phenyl]-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=CC(=C1)C(C)C(=O)O)OC | C27H26FNO5
